US04260497
Preparation of N-(2-Tridecyl)methanesulfonamide:
To a solution of 10 g (50 mmol) 2-aminotridecane and 5 g triethylamine in 100 ml methylene chloride is added 6 g methanesulfonyl chloride while cooling and stirring for a period of 10 minutes. After one hour of additional stirring, it was allowed to stand over night. The reaction mixture was subsequently transferred to a separatory funnel, washed three times with water, dried over Na2SO4, evaporated to a white solid and dried in a vacuum oven.

reactant | 2-aminotridecane | 50 mmol, 10 g | NC(C)CCCCCCCCCCC | C13H29N
reactant | triethylamine | 5 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 6 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-(2-Tridecyl)methanesulfonamide | CC(CCCCCCCCCCC)NS(=O)(=O)C | C14H31NO2S
